US04086249
Preparation of 2(R),6(R),10-trimethylundecanoic acid methyl ester
2(R),6(R),10-trimethylundecanoic acid (270 mg., [α]D25 -8.64°) was dissolved in ether and treated with an excess of etheral solution of diazomethane at 23° C. for 2.0 hour. The crude product was subjected to evaporative distillation at 98°-101°/0.15 mm Hg to give 247 mg. of 2(R), 6(R),10-trimethylundecanoic acid methyl ester as a colorless oil, [α]D25 -11.30° (c1.1065, CHCl3).

reactant | 2(R),6(R),10-trimethylundecanoic acid | 270 mg | C[C@@H](C(=O)O)CCC[C@@H](CCCC(C)C)C | C14H28O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 2(R),6(R),10-trimethylundecanoic acid methyl ester | COC([C@@H](CCC[C@@H](CCCC(C)C)C)C)=O | C15H30O2
